US06319946B1
2,2-Dimethyl-4-(2-methyl-1,3-dioxolan-2-yl)butanal
A freshly prepared solution of lithium diisopropylamide, was generated by the addition of n-butyllithium (16.2 mL, 25.9 mmol, 1.6 M in hexane) to a solution of diisopropylamine (6.6 mL, 47.0 mmol) in tetrahydrofuran (20 mL) at −20° C., and allowed to warm to 0° C. and stir for 30 minutes. N-(2-methylpropylidene)-2-methyl-2-propanamine (3.0 g, 23.5 mmol) in tetrahydrofuran (10 mL) was added dropwise over 10 minutes. After stirring at 0° C. for 2 hours, 2-bromoethyl-2-methyl-1,3-dioxolane (5.0 g, 25.9 mmol) in tetrahydrofuran (10 mL) was added over 15 minutes. The reaction was allowed to warm to ambient temperature and stirring was continued for 16 hours. After cooling in an ice bath, an aqueous solution of oxalic acid (100 mL, 10 wgt %) was added and reaction stirred for 1 hour. The layers were separated and the aqueous was extracted with ether (100 mL). The combined organic layers were washed with brine (50 mL), saturated sodium bicarbonate/water (50 mL), brine (50 mL), dried (magnesium sulfate), concentrated in vacuo and chromatographed (silica gel, ethyl acetate/hexane, 1:9) to afford the title compound (1.0 g, 23%) as a clear liquid;

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 25.9 mmol, 1.6 M, 16.2 mL | C(CCC)[Li]
reactant | diisopropylamine | 47.0 mmol, 6.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | N-(2-methylpropylidene)-2-methyl-2-propanamine | 23.5 mmol, 3.0 g | CC(C=NC(C)(C)C)C | C8H17N
reactant | 2-bromoethyl-2-methyl-1,3-dioxolane | 25.9 mmol, 5.0 g | BrCCC1(OCCO1)C | C6H11BrO2
reactant | oxalic acid | 100 mL | C(C(=O)O)(=O)O | C2H2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,2-Dimethyl-4-(2-methyl-1,3-dioxolan-2-yl)butanal | 1.0 g, 23% | CC(C=O)(CCC1(OCCO1)C)C | C10H18O3
